US05135940
A. Preparation of 3-(3-nitrophenyl)-3-(3-methoxyphenylthio)-1-phenyl-1-propanone
Piperidine, 1.2 ml, was added to a boiling solution of 3-nitrobenzalacetophenone (10 g, 0.04 mole) and 3-methoxybenzenethiol (6.64 g, 0.048 mole) in 100 ml benzene . After standing for 30 minutes without further heating, acetic acid, 10 ml, was added. The solution then was poured into water (about 100 ml), extracted with methylene chloride (5×100 ml), washed with water, dried (Na2SO4) and evaporated to dryness to yield the title compound as a solid, mp 105°.

reactant | Piperidine | N1CCCCC1 | C5H11N
reactant | 3-nitrobenzalacetophenone | 0.04 mole, 10 g | [N+](=O)([O-])C=1C=C(C=CC(=O)C2=CC=CC=C2)C=CC1 | C15H11NO3
reactant | 3-methoxybenzenethiol | 0.048 mole, 6.64 g | COC=1C=C(C=CC1)S | C7H8OS
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | about 100 ml | O | H2O
product | 3-(3-nitrophenyl)-3-(3-methoxyphenylthio)-1-phenyl-1-propanone | [N+](=O)([O-])C=1C=C(C=CC1)C(CC(=O)C1=CC=CC=C1)SC1=CC(=CC=C1)OC | C22H19NO4S
